US04730005
To a suspension of lithium aluminum hydride (22.2 mmoles) in tetrahydrofuran (30 ml) under argon, cooled to 0° C., was added 2-(1-dodecyn-1-yl) benzaldehyde (11.1 mmoles, prepared as in Example 4(a) in tetrahydrofuran (10 ml), dropwise with stirring. After coming to room temperature, the reaction mixture was refluxed for 18 hours. The reaction mixture was then cooled to 0° C., ice was added, followed by ether and dilute hydrochloric acid, and the layers were separated. The organic layer was washed with water and brine. The dried solution was concentrated to give 2-(1-trans-dodecenyl)benzyl alcohol, after recrystallization from acetonitrile. The benzyl alcohol (0.080 mmoles) was dissolved in ethyl acetate (10 ml) under argon and manganese dioxide (12.6 mmoles) was added. The reaction mixture was stirred for 18 hours at room temperature, filtered and the filtrate concentrated to leave an oil which is the desired product.

reactant | lithium aluminum hydride | 22.2 mmoles | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 2-(1-dodecyn-1-yl) benzaldehyde | C(#CCCCCCCCCCC)C1=C(C=O)C=CC=C1 | C19H26O
reactant | ether | CCOCC | C4H10O
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 2-(1-trans-dodecenyl)benzyl alcohol | C(=C\CCCCCCCCCC)/C1=C(CO)C=CC=C1 | C19H30O
